US08071624B2
Step 3. (3S)-1-Acetyl-N-{(3S)-1-[(3-chloro-2-methylphenyl)sulfonyl]piperidin-3-yl}piperidine-3-carboxamide
tert-Butyl (3S)-3-[((3S)-1-[(3-chloro-2-methylphenyl)sulfonyl]piperidin-3-ylamino)-carbonyl]-piperidine-1-carboxylate (10.0 mg, 200 μmol) was treated with 4.0 M of hydrogen chloride in 1,4-dioxane (0.5 mL) at rt for 1 h. The volatiles were removed in-vacuo and the residue was dissolved in acetonitrile (0.8 mL) and was treated with diisopropylethylamine (20.0 μL) and acetyl chloride (5.0 μL). The crude reaction mixture was diluted with MeOH (1.3 mL) and was adjusted to a pH of 2 using TFA and was purified by prep-HPLC to give the desired product. LCMS: (M+H)+=442.1/444.1.

reactant | tert-Butyl (3S)-3-[((3S)-1-[(3-chloro-2-methylphenyl)sulfonyl]piperidin-3-ylamino)-carbonyl]-piperidine-1-carboxylate | 200 μmol, 10.0 mg | ClC=1C(=C(C=CC1)S(=O)(=O)N1C[C@H](CCC1)NC(=O)[C@@H]1CN(CCC1)C(=O)OC(C)(C)C)C | C23H34ClN3O5S
reactant | hydrogen chloride | 4.0 M | Cl | ClH
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 1.3 mL | CO | CH4O
product | (3S)-1-Acetyl-N-{(3S)-1-[(3-chloro-2-methylphenyl)sulfonyl]piperidin-3-yl}piperidine-3-carboxamide | C(C)(=O)N1C[C@H](CCC1)C(=O)N[C@@H]1CN(CCC1)S(=O)(=O)C1=C(C(=CC=C1)Cl)C | C20H28ClN3O4S
